US04376123
200 ml of 50% aqueous sodium hydroxide solution and 1 g of triethylbenzylammonium chloride are added to a solution of 23.8 g of 7-hydroxyisoflavone in 100 ml of CH2Cl2, 20 g of 1-chloro-1-phenyl-3-dimethylaminopropane is added dropwise while stirring and stirring is continued for a further hour. Working up in the customary manner gives 7-(1-phenyl-3-dimethylaminopropoxy)-isoflavone. M.p. 128°-130°.

reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | 7-hydroxyisoflavone | 23.8 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-chloro-1-phenyl-3-dimethylaminopropane | 20 g | ClC(CCN(C)C)C1=CC=CC=C1 | C11H16ClN
catalyst | triethylbenzylammonium chloride | 1 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-(1-phenyl-3-dimethylaminopropoxy)-isoflavone | C1(=CC=CC=C1)C(CCN(C)C)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C26H25NO3
